US06225318B1
4-(6-Chloro-2,3-dihydro-indol-1-yl)-6-phenyl-quinazoline
The title compound was prepared in a manner analogous in the method of Example 4 using 6-Phenyl-3H-quinazolin-4-one (250 mg, 1.124 mmol) and 6-chloroindoline (172 mg, 1.124 mmol)). Three hundred eighty-nine milligrams (88%) of a yellow solid was isolated from the reaction mixture.

reactant | 6-Phenyl-3H-quinazolin-4-one | 1.124 mmol, 250 mg | C1(=CC=CC=C1)C=1C=C2C(NC=NC2=CC1)=O | C14H10N2O
reactant | 6-chloroindoline | 1.124 mmol, 172 mg | ClC1=CC=C2CCNC2=C1 | C8H8ClN
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-6-phenyl-quinazoline | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC=C(C=C12)C1=CC=CC=C1 | C22H16ClN3
